US04761482
2-(2-Pinanylthio)-5-(t-butylthio)-1,3,4-thiadiazole
2,5-Dimercapto-1,3,4-thiadiazole (35 g, 0.23 mol) and alpha-pinene (35 g, 0.26 mol) were charged to a reaction vessel and heated cautiously to 140° C. (exothermic reaction). The reaction was maintained at 135°-155° C. for 15 min. The reaction was fitted with a Dean Stark trap filled with xylene. Xylene (15 ml) was charged to the reaction. The reaction was fitted with an addition funnel containing t-butanol (25 g, 0.34 mol). The alcohol was added slowly with the reaction refluxing. Sulfuric acid (3 drops) was added to accelerate the water removal. The reaction product was isolated after approximately 5 ml (about 0.25 mol) of water were collected. Solvent was stripped by rotary evaporation. The product was mixed with calcium hydroxide (1 g), hexane (about 100 ml), and sufficient acetone (about 50 ml) to maintain one liquid layer. The product was filtered using a filter aid and the solvent removed by rotary evaporation. This afforded the final product.

reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 0.23 mol, 35 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | alpha-pinene | 0.26 mol, 35 g | CC1=CCC2CC1C2(C)C | C10H16
reactant | t-butanol | 0.34 mol, 25 g | C(C)(C)(C)O | C4H10O
reactant | water | about 0.25 mol, approximately 5 ml | O | H2O
catalyst | Sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | Xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-Pinanylthio)-5-(t-butylthio)-1,3,4-thiadiazole | C12C(CCC(C1(C)C)C2)(C)SC=2SC(=NN2)SC(C)(C)C | C16H26N2S3
